US08440689B2
B. Methyl 2-(2-((tert-butoxycarbonylamino)methyl)piperidin-1-yl)-4-cyano-6-(m-tolylamino)pyrimidine-5-carboxylate
A mixture of methyl 2-(2-((tert-butoxycarbonylamino)methyl)piperidin-1-yl)-4-chloro-6-(m-tolylamino)pyrimidine-5-carboxylate (399.7 mg, 0.816 mmol), tetrakis(triphenylphosphine)palladium(0) (96.3 mg, 0.083 mmol), and zinc cyanide (53.2 mg, 0.453 mmol) in DMF (5 mL) was stirred at 120° C. for 1 h under microwave irradiation. Water (50 mL) was added and the mixture was extracted with EtOAc (2×100 mL). The organic layers were washed with saturated aq NaHCO3 (50 mL), water (50 mL), and brine (50 mL), were dried over anhydrous Na2SO4, and then filtered (DM1020). The filtrate was concentrated under reduced pressure and was purified by column chromatography (SiO2, hexanes/EtOAc=4/1) to give the title compound as a colorless oil (315.0 mg, 80%). 1H NMR (500 MHz, CDCl3) δ ppm 1.34-1.77 (m, 15H), 2.36-2.39 (m, 3H), 3.00-3.21 (m, 2H), 3.49-3.69 (m, 1H), 3.97 (s, 3H), 4.49-5.10 (m, 3H), 6.96-7.02 (m, 1H), 7.24-7.41 (m, 3H), 10.14-10.45 (m, 1H). [M+H] calc'd for C25H33N6O4, 481. found, 481.

reactant | methyl 2-(2-((tert-butoxycarbonylamino)methyl)piperidin-1-yl)-4-chloro-6-(m-tolylamino)pyrimidine-5-carboxylate | 0.816 mmol, 399.7 mg | C(C)(C)(C)OC(=O)NCC1N(CCCC1)C1=NC(=C(C(=N1)Cl)C(=O)OC)NC=1C=C(C=CC1)C | C24H32ClN5O4
reactant | Water | 50 mL | O | H2O
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.083 mmol, 96.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 0.453 mmol, 53.2 mg | [C-]#N.[Zn+2].[C-]#N
product | Methyl 2-(2-((tert-butoxycarbonylamino)methyl)piperidin-1-yl)-4-cyano-6-(m-tolylamino)pyrimidine-5-carboxylate | 315.0 mg, 80% | C(C)(C)(C)OC(=O)NCC1N(CCCC1)C1=NC(=C(C(=N1)C#N)C(=O)OC)NC=1C=C(C=CC1)C | C25H32N6O4
